US03984465
By following the procedure described in Example 7, Step B, using as the reactants 2,2,3-trimethyl-5-methoxy-6,7-dichloro-1-indanone (10 g.) and pyridine hydrochloride (100 g.), there is obtained 2,2,3-trimethyl-5-hydroxy-6,7-dichloro-1-indanone.

reactant | 2,2,3-trimethyl-5-methoxy-6,7-dichloro-1-indanone | 10 g | CC1(C(C2=C(C(=C(C=C2C1C)OC)Cl)Cl)=O)C | C13H14Cl2O2
reactant | pyridine hydrochloride | 100 g | Cl.N1=CC=CC=C1
product | 2,2,3-trimethyl-5-hydroxy-6,7-dichloro-1-indanone | CC1(C(C2=C(C(=C(C=C2C1C)O)Cl)Cl)=O)C | C12H12Cl2O2
